US07871998B2
tert-butyl N5-(tert-butoxycarbonyl)-D-ornithinate
tert-butyl N2-[(benzyloxy)carbonyl]-N5-(tert-butoxycarbonyl)-D-ornithinate (0.67 g, 1.83 mmole) and Pd on charcoal (95%, 0.115 g) were mixed in EtOH (95%, 20 mL) and stirred under H2-atmosphere for 5 hours and 15 minutes. The mixture was filtered through Celite 521 and the solvent was evaporated under reduced pressure to give 0.45 g (85%) of the desired product.

reactant | tert-butyl N2-[(benzyloxy)carbonyl]-N5-(tert-butoxycarbonyl)-D-ornithinate | 1.83 mmole, 0.67 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H34N2O6
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd on charcoal | 0.115 g | [Pd] | Pd
product | tert-butyl N5-(tert-butoxycarbonyl)-D-ornithinate | 0.45 g, 85% | C(C)(C)(C)OC(=O)NCCC[C@@H](N)C(=O)OC(C)(C)C | C14H28N2O4
